US05639782
Step A: Preparation of 3,5-dimethoxy-4-(2-hydroxyethoxy) benzaldehyde
Syringaldehyde (1.0 g, 5.49 mmole), 2-iodo-1-ethanol (1.90 g, 10.98 mmole) and potassium carbonate (1.90 g, 13.77 mmole) are added to 15 ml dry DMF and stirred for 24 hours at 80° C. under an argon atmosphere. The reaction mixture is added to 100 ml H2O and acidified with 10% HCl. The product is extracted into CHCl3, dried over MgSO4, and concentrated to an oil in vacuo. The remaining oil is purified by flash column chromatography using 1:1 hex/ethyl acetate as eluent (1.009 g, 81%).

reactant | Syringaldehyde | 5.49 mmole, 1.0 g | C(C1=CC(OC)=C(O)C(OC)=C1)=O | C9H10O4
reactant | 2-iodo-1-ethanol | 10.98 mmole, 1.90 g | ICCO | C2H5IO
reactant | potassium carbonate | 13.77 mmole, 1.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | Cl | ClH
solvent | H2O | 100 ml | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 3,5-dimethoxy-4-(2-hydroxyethoxy) benzaldehyde | COC=1C=C(C=O)C=C(C1OCCO)OC | C11H14O5
